US06335463B1
1-[2-[4-[5-chloro-1-(4-flourophenyl)-1H-indol-3-yl]-1,2,3,6-tetrahydro-1-pyridyl]ethyl]-2imidazolidinone
5-chloro-1-(4-fluorophenyl)-3-(1,2,3,6-tetrahydropyridin-4-yl)indole (6.0 kg. 16.5 mol), 1-(2-chloroethyl)imidazolon (3.19 kg, 1.3 eq.), sodium carbonate (anhydrous) and methyl isobutyl ketone (60 L) were mixed. The reaction mixture was heated under N2-cover and stirring until 90-95° C., and was stirred over night at this temperature. The next day the reaction mixture was filtered while still hot. The apparatus and filter cake were washed with further 2.5 L of methyl isobutyl ketone. The combined filtrates were left over night for crystallisation. The product was isolated on a nutch, washed with 7.5 L n-Heptane and dried over night in vacuum at 60° C.

reactant | 5-chloro-1-(4-fluorophenyl)-3-(1,2,3,6-tetrahydropyridin-4-yl)indole | 16.5 mol, 6.0 kg | ClC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)F)C=1CCNCC1 | C19H16ClFN2
reactant | 1-(2-chloroethyl)imidazolon | 3.19 kg, 1.3 eq. | ClCCN1C(NC=C1)=O | C5H7ClN2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methyl isobutyl ketone | 60 L | C(C(C)C)C(=O)C | C6H12O
product | 1-[2-[4-[5-chloro-1-(4-flourophenyl)-1H-indol-3-yl]-1,2,3,6-tetrahydro-1-pyridyl]ethyl]-2imidazolidinone | ClC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)F)C=1CCN(CC1)CCN1C(NCC1)=O | C24H24ClFN4O
